US07781452B2
(2c) 2,6-Dichloro-3-methylpyridine
2-Chloro-3-methylpyridine 1-oxide (9.00 g, 62.7 mmol) and triethylamine (10.4 ml, 75.2 mmol) were dissolved in dichloromethane (70 ml), and a solution of phosphorus oxychloride (7 ml, 75.3 mmol) in dichloromethane (40 ml) was added dropwise at 0° C. After stirring for 3 hours while elevating reaction temperature to room temperature, the reaction mixture was stirred under reflux for 1 hour. After the reaction was completed, water (30 ml) was added and the reaction mixture was neutralized with a sodium hydroxide solution, and after extracted with dichloromethane (70 ml), dried over magnesium sulfate. The solvent was evaporated and purified by silica gel column chromatography (eluting solvent: ethyl acetate/n-hexane=3/100), thereby yielding the title compound (3.47 g) as a white solid 10:3 mixture with 2,4-dichloro-3-methylpyridine.

reactant | 2-Chloro-3-methylpyridine 1-oxide | 62.7 mmol, 9.00 g | ClC1=[N+](C=CC=C1C)[O-] | C6H6ClNO
reactant | triethylamine | 75.2 mmol, 10.4 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 75.3 mmol, 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 2,6-Dichloro-3-methylpyridine | 3.47 g | ClC1=NC(=CC=C1C)Cl | C6H5Cl2N
